US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline (150 mg, 0.383 mmol) and 4-morpholinesulfonyl chloride (142 mg, 0.766 mmol) the title compound of Step A was obtained as a yellow foam (96 mg, 46% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.78-10.01 (m, 1H), 8.34 (d, J=5.5 Hz, 1H), 7.58 (td, J=7.4, 2.4 Hz, 1H), 7.17-7.41 (m, 2H), 6.57-6.68 (m, 1H), 3.68 (t, J=4.7 Hz, 4H), 3.42-3.63 (m, 8H), 2.91-3.11 (m, 4H).

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 0.383 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
reactant | 4-morpholinesulfonyl chloride | 0.766 mmol, 142 mg | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-4-morpholinesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)N1CCOCC1)F | C21H22ClFN6O4S2
